US06342765B1
Methyl 2-(4-fluorophenyl)4-{1-(4-fluorophenyl)-2-[2-(tert-butyldiphenylsilyloxymethyl)imidazol-1-yl]ethoxymethyl}benzoate (4 g; 5.58 mmol) in methanol (50 ml) was treated with 2N aqueous sodium hydroxyde solution (5 ml; 11.1 mmol) at 80° C. for 7 hours. After evaporation of the methanol, the residue was taken up in water, the pH adjusted to with 6N HCl and extracted with dichloromethane/ethanol (95/5) to give 2-(4-fluorophenyl)-4-[1-(4-fluorophenyl)-2-(2-hydroxymethylimidazol-1-yl)ethoxymethyl]benzoic acid.

reactant | Methyl 2-(4-fluorophenyl)4-{1-(4-fluorophenyl)-2-[2-(tert-butyldiphenylsilyloxymethyl)imidazol-1-yl]ethoxymethyl}benzoate | 5.58 mmol, 4 g | FC1=CC=C(C=C1)C1=C(C(=O)OC)C=CC(=C1)C(C1=CC=C(C=C1)F)OCCN1C(=NC=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C43H42F2N2O4Si
reactant | sodium | 11.1 mmol, 2N, 5 ml | [Na] | Na
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-fluorophenyl)-4-[1-(4-fluorophenyl)-2-(2-hydroxymethylimidazol-1-yl)ethoxymethyl]benzoic acid | Yield: 83% | FC1=CC=C(C=C1)C1=C(C(=O)O)C=CC(=C1)C(C1=CC=C(C=C1)F)OCCN1C(=NC=C1)CO | C26H22F2N2O4
